US05773624
To a suspension of 2-fluoromethoxyimino-2-(5-amino-1,2,4-thiadiazole-3-yl) acetamide (anti-isomer) (3.51 g, 16 mmol) in 99% formic acid (14.73 g, 320 mmol), acetic anhydride (4.90 g, 48 mmol) was added, and the mixture was reacted at 40° C. for 50 hrs, and then cooled to below 10° C. to separate crystals. The crystals were collected by filtration and washed with cold methanol (10 ml) on Nutsche. The crystals in DMF (16 ml) were heated to dissolve and the resulting solution was dispersed in methanol (32 ml), and then cooled, filtered and dried to give 2-fluoromethoxyimino-2-(5-formamido-1,2,4-thiadiazole-3-yl) acetamide (syn-isomer) (2.43 g, yield: 61.4%). The content obtained by HPLC: 99.0% (anti-isomer: 0.2%).

reactant | 2-fluoromethoxyimino-2-(5-amino-1,2,4-thiadiazole-3-yl) acetamide | 16 mmol, 3.51 g | FCON=C(C(=O)N)C1=NSC(=N1)N | C5H6FN5O2S
reactant | formic acid | 320 mmol, 14.73 g | C(=O)O | CH2O2
reactant | acetic anhydride | 48 mmol, 4.90 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2-fluoromethoxyimino-2-(5-formamido-1,2,4-thiadiazole-3-yl) acetamide | 2.43 g, yield: 61.4% | FCON=C(C(=O)N)C1=NSC(=N1)NC=O | C6H6FN5O3S
